US05866560
A solution of 2 g of 7α-(5-bromopentyl)-11β-fluoro-estra-1,3,5(10)-triene-3,17β-diol in 20 ml of dimethylformamide is stirred with 8 ml of a 40% aqueous methylamine solution for 3.5 hours at 80° C. Then, it is added to water, extracted three times with ethyl acetate, washed with water and common salt solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. 1.77 g of 11β-fluoro-7α-[5-(methylamino)-pentyl]-estra-1,3,5(10)-triene-3,17β-diol is obtained.

reactant | 7α-(5-bromopentyl)-11β-fluoro-estra-1,3,5(10)-triene-3,17β-diol | 2 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C23H32BrFO2
reactant | methylamine | CN | CH5N
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 11β-fluoro-7α-[5-(methylamino)-pentyl]-estra-1,3,5(10)-triene-3,17β-diol | 1.77 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCNC)O | C24H36FNO2
